Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cephalosporins / Erythrocin / esomeprazole / Macrolide 
Antibiotics / Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
parotiditis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ F w/PMHx significant for IDDM type 2, 
hypercholesterolemia, fibromyalgia, hx of meningitis, presenting 
to our ED with increasing facial swelling and hoarseness. 
Patient has had facial swelling since ___. She was seen at 
an OSH x 2 and given Benadryl for what was assumed to be an 
allergic reaction. She was then sent back to her living 
facility. Since then the swelling, redness, and pain has 
increased, which prompted her facility to bring her to our ED 
___ where she was admitted to the TSICU for airway watch.
 
Past Medical History:
Nonruptured cerebral aneurysm
Hx upper GI bleed
Rotator cuff injury
Fibromyalgia
Urinary incontinence
IDDM type 2- denies insulin or FSBS at home
Hypercholesterolemia
Cataract
Glaucoma
Prior note says hx COPD but pt denies
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM

Gen: sitting up, agitated, short of breath, visibly 
uncomfortable
HEENT: left cheek and neck warm swollen and tender to palpation, 
with redness extending down towards shoulder and up around 
orbit. Minimal mouth opening due to pain. PERRLA, EOMI
Pulm: lungs CTAB, no wheezes/rhonchi appreciated. Distant breath 
sounds likely ___ body habitus
Abd: soft, NT, ND
Ext: WWP
Skin: Skin ok other than redness as described above
Neuro: A&O x 3

DISCHARGE EXAM
98.3 118 / 67 71 18 91 Ra  
General: No apparent distress
HEENT: Minimal left sided facial edema and erythema, almost 
resolved,. Clear oropharynx with minimal swelling. No 
respiratory difficulty.
Cardiac: RRR nl s1/s2
Respiratory: CTAB, no increased effort of respirations
Abdomen: Soft, nontender, nondistended
Extremities: wwp no edema
 
Pertinent Results:
ADMISSION LABS
================
___ 01:00PM BLOOD WBC-20.0* RBC-3.97 Hgb-10.7* Hct-34.1 
MCV-86 MCH-27.0 MCHC-31.4* RDW-16.0* RDWSD-50.3* Plt ___
___ 03:39AM BLOOD WBC-14.3* RBC-3.22* Hgb-8.8* Hct-28.3* 
MCV-88 MCH-27.3 MCHC-31.1* RDW-16.5* RDWSD-52.7* Plt ___
___ 01:00PM BLOOD Neuts-90.1* Lymphs-3.4* Monos-5.0 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-18.01* AbsLymp-0.67* 
AbsMono-0.99* AbsEos-0.01* AbsBaso-0.05
___ 04:53PM BLOOD ___ PTT-24.9* ___
___ 03:39AM BLOOD Plt ___
___ 04:53PM BLOOD ___
___ 01:00PM BLOOD Glucose-196* UreaN-9 Creat-0.7 Na-138 
K-3.9 Cl-97 HCO3-26 AnGap-19
___ 03:39AM BLOOD Glucose-264* UreaN-15 Creat-0.6 Na-137 
K-3.7 Cl-102 HCO3-26 AnGap-13
___ 04:53PM BLOOD ALT-16 AST-26 LD(___)-591* AlkPhos-79 
Amylase-304* TotBili-0.5
___ 03:39AM BLOOD Calcium-8.1* Phos-2.0* Mg-2.4
___ 04:53PM BLOOD calTIBC-225* Ferritn-341* TRF-173*
___ 01:00PM BLOOD %HbA1c-6.0 eAG-126
___ 12:31AM BLOOD ___ pO2-81* pCO2-41 pH-7.42 
calTCO2-28 Base XS-1
___ 01:27PM BLOOD Lactate-1.9
___ 12:31AM BLOOD freeCa-1.08*

DISCHARGE LABS
=================

___ 06:00AM BLOOD WBC-12.7* RBC-3.40* Hgb-9.2* Hct-29.5* 
MCV-87 MCH-27.1 MCHC-31.2* RDW-16.4* RDWSD-51.6* Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-164* UreaN-19 Creat-0.6 Na-140 
K-4.3 Cl-104 HCO3-22 AnGap-18
___ 06:00AM BLOOD Calcium-8.2* Phos-2.3*

MICROBIOLOGY
===============
No growth on cultures
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

IMAGING
============

IMAGING: 
CT Neck ___: Findings concerning for acute bacterial parotitis 
with significant adjacent superficial edema and retropharyngeal 
edema.  Enlargement of the left masseter and submandibular gland 
likely reactive. 

 
Brief Hospital Course:
SUMMARY: ___ h/o DM2, HTN, HLD who presents with parotitis, 
initially in ICU for airway monitoring. Was treated with 
dexamethasone and clindamycin. Swelling improved significantly 
and patient was discharged to rehab on PO clindamycin for 
further care.

# Parotitis: Patient presented with new left-sided facial edema 
and swelling. CT Neck on ___ was consistent with acute bacterial 
parotitis with significant edema, without abscess or stone. ENT 
was consulted and recommended conservative treatment with airway 
monitoring in the ICU. She was treated with IV clindamycin 
starting on ___ plus IV dexamethasone for 36 hours, and 
transitioned to PO clindamycin on ___. She was given sialgogues, 
massages, and warm compresses with significant improvement in 
swelling. Never required intubation or developed acute 
respiratory distress. She was evaluated by speech and swallow 
team and was tolerating regular diet without issues. She will 
follow up with ENT in clinic.

CHRONIC ISSUES:
# DMII: Continued insulin sliding scale
# Anemia: Continued ferrous sulfate
# Depression: Continued home bupropion
# Primary prevention: Continued home ASA 81mg, atorvastatin 10mg 
daily
# Glaucoma: Continued home eye drops.
# Urinary incontinence: Vesicare held as not on formulary. 

TRANSITIONAL ISSUES:
- Complete 14-day course of clindamycin (last day ___
- Will follow up with ENT in clinic
- Please monitor closely for signs of aspiration. Patient had a 
small RLL infiltrate but no clinical signs of pneumonia and was 
swallowing without issues. 
- Patient had nocturnal desaturations on telemetry. Please 
consider OSA evaluation as outpatient. 
- PO prednisone discontinued as no longer needed
# Code status: DNR/DNI 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES DAILY 
2. Aspirin 81 mg PO DAILY 
3. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE QID 
6. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE DAILY 
7. PredniSONE 7 mg PO DAILY 
8. Senna 17.2 mg PO BID:PRN constipation 
9. Vitamin D 1000 UNIT PO DAILY 
10. solifenacin 10 mg oral DAILY 
11. melatonin 5 mg oral QHS 
12. BuPROPion 100 mg PO BID 
13. Ferrous Sulfate 325 mg PO DAILY 
14. Atorvastatin 10 mg PO QPM 
15. Glargine 10 Units Bedtime
16. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Moderate 
17. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
18. EPINEPHrine (EpiPEN) 0.3 mg IM PRN anaphylaxis 
19. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
dyspepsia 
20. Bisacodyl 10 mg PR QHS:PRN constipation 
21. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
22. TraZODone 25 mg PO QHS:PRN insomnia 
23. Naloxone 0.4 mg Subcut PRN sedation, respiratory depression 

 
Discharge Medications:
1.  Clindamycin 450 mg PO Q6H 
last day ___.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN shortness of 
breath, wheezing  
3.  Glargine 10 Units Bedtime 
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
dyspepsia  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 10 mg PO QPM  
8.  Bisacodyl 10 mg PR QHS:PRN constipation  
9.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES DAILY  
10.  BuPROPion 100 mg PO BID  
11.  EPINEPHrine (EpiPEN) 0.3 mg IM PRN anaphylaxis  
12.  Ferrous Sulfate 325 mg PO DAILY  
13.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Moderate  
14.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
15.  melatonin 5 mg oral QHS  
16.  Naloxone 0.4 mg Subcut PRN sedation, respiratory depression 
 
17.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
18.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE QID  
19.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE DAILY 
 
20.  Senna 17.2 mg PO BID:PRN constipation  
21.  solifenacin 10 mg oral DAILY  
22.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  
23.  TraZODone 25 mg PO QHS:PRN insomnia  
24.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Parotitis

SECONDARY DIAGNOSIS:
Hyperlipidemia
Diabetes mellitus, type II
Arthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ due to facial swelling. We found that 
you had an infection of your glands called parotitis. You were 
admitted to the ICU and given steroids and antibiotics. You 
quickly improved.

You will complete a course of antibiotics at ___ and ___ 
have a follow up appointment with our Ear, Nose, and Throat 
doctors.

___ wish you all the best!
- Your ___ care team
 
Followup Instructions:
___